US05157026
5-Cyano-2-ethyl-7-methyl-3-(2'-(tetrazol-5-yl)biphen-4-yl)methyl-3H-imidazo[4,5-b]pyridine
A mixture of 5-bromo-2-ethyl-7-methyl-3-(2'-(tetrazol-5-yl)biphen-4-yl)methyl-3H-imidazo[4,5-b]pyridine (41 mg), CuCN (80 mg), and pyridine (0.2 mL) was heated with stirring to 160° C. for 4 hours. The pyridine distilled off during the course of the heating. The cooled dark mass was dissolved in 2 mL of 20% aqueous KCN by heating to 50° C. for 15 minutes. Acetic acid (2 mL) (Caution! HCN is evolved.) was added and the mixture was extracted (2×EtOAc). The organic layers were dried (Na2SO4), concentrated, and purified (SiO2, 80/20/1 CH2Cl2 --MeOH--NH4OH) to give 26 mg of the title compound as a solid.

reactant | 5-bromo-2-ethyl-7-methyl-3-(2'-(tetrazol-5-yl)biphen-4-yl)methyl-3H-imidazo[4,5-b]pyridine | 41 mg | BrC1=CC(=C2C(=N1)N(C(=N2)CC)CC2=CC=C(C=C2)C2=C(C=CC=C2)C2=NN=NN2)C | C23H20BrN7
reactant | CuCN | 80 mg | C(#N)[Cu]
solvent | pyridine | 0.2 mL | N1=CC=CC=C1 | C5H5N
product | 5-Cyano-2-ethyl-7-methyl-3-(2'-(tetrazol-5-yl)biphen-4-yl)methyl-3H-imidazo[4,5-b]pyridine | 26 mg | C(#N)C1=CC(=C2C(=N1)N(C(=N2)CC)CC2=CC=C(C=C2)C2=C(C=CC=C2)C2=NN=NN2)C | C24H20N8
